US08202865B2
2-fluoro-4-{5-[2-(isobutoxymethyl)-2′-methylbiphenyl-4-yl]-1,2,4-oxadiazol-3-yl}benzoic acid
Methyl 2-fluoro-4-[5-(2′-methyl-2-{[(methylsulfonyl)oxy]methyl}biphenyl-4-yl)-1,2,4-oxadiazol-3-yl]benzoate, prepared as in example 58, step 1, (75 mg; 0.15 mmol) was dissolved in 2-methyl-1-propanol (5 mL). The solution was then heated in the microwave at 130° C. for 10 min. Sodium hydroxide (151.05 μL; 5 M; 0.76 mmol) was added and the mixture was heated at 60° C. for 10 min in the microwave. Hydrogen chloride (151.05 μL; 5 M; 0.76 mmol) was added and the mixture was evaporated to dryness. The crude was purified with MD Autoprep, to afford the title compound as a white powder. 1H NMR (DMSO-d6, 300 MHz) δ 13.63 (br s, 1H), 8.34 (d, J=1.5 Hz, 1H), 8.18 (dd, J=8.0, 1.8 Hz, 1H), 8.13-8.08 (m, 1H), 8.03 (dd, J=8.1, 1.4 Hz, 1H), 7.95 (dd, J=11.0, 1.2 Hz, 1H), 7.43 (d, J=7.9 Hz, 1H), 7.36-7.25 (m, 3H), 7.15 (d, J=7.0 Hz, 1H), 4.23 (s, 2H), 3.10 (d, J=6.4 Hz, 2H), 2.04 (s, 3H), 1.77 (sept, J=6.6 Hz, 1H), 0.84 (d, J=6.6 Hz, 6H). LC/MS (Method B): 459.4 (M−H)−, 461.3 (M+H)+. HPLC (Method A) Rt 6.04 min (Purity: 99.3%).

reactant | Methyl 2-fluoro-4-[5-(2′-methyl-2-{[(methylsulfonyl)oxy]methyl}biphenyl-4-yl)-1,2,4-oxadiazol-3-yl]benzoate | FC1=C(C(=O)OC)C=CC(=C1)C1=NOC(=N1)C1=CC(=C(C=C1)C1=C(C=CC=C1)C)COS(=O)(=O)C | C25H21FN2O6S
reactant | Sodium hydroxide | 0.76 mmol, 5 M, 151.05 μL | [OH-].[Na+]
reactant | Hydrogen chloride | 0.76 mmol, 5 M, 151.05 μL | Cl | ClH
solvent | 2-methyl-1-propanol | 5 mL | CC(CO)C | C4H10O
product | 2-fluoro-4-{5-[2-(isobutoxymethyl)-2′-methylbiphenyl-4-yl]-1,2,4-oxadiazol-3-yl}benzoic acid | FC1=C(C(=O)O)C=CC(=C1)C1=NOC(=N1)C1=CC(=C(C=C1)C1=C(C=CC=C1)C)COCC(C)C | C27H25FN2O4
